US04529698
(H) (trans)-3-Amino-4-cyclohexyl-2-oxo-1-azetidinesulfonic acid
(trans)-3-(t-Butoxycarbonylamino)-4-cyclohexyl-2-oxo-1-azetidinesulfonic acid, tetrabutylammonium salt (3.8 g) is stirred in 20 ml of formic acid for 3 hours, followed by the addition of 20 ml of methylene chloride. The precipitated title compound (1.0 g) is filtered off, melting point 217°-219° C.

reactant | (trans)-3-(t-Butoxycarbonylamino)-4-cyclohexyl-2-oxo-1-azetidinesulfonic acid, tetrabutylammonium salt | 3.8 g | C(CCC)[N+](CCCC)(CCCC)CCCC.C(C)(C)(C)OC(=O)N[C@@H]1C(N([C@H]1C1CCCCC1)S(=O)(=O)[O-])=O
reactant | methylene chloride | 20 ml | C(Cl)Cl | CH2Cl2
solvent | formic acid | 20 ml | C(=O)O | CH2O2
product | (trans)-3-Amino-4-cyclohexyl-2-oxo-1-azetidinesulfonic acid | N[C@@H]1C(N([C@H]1C1CCCCC1)S(=O)(=O)O)=O | C9H16N2O4S
